US06610707B1
2-Furoic acid (10.0 g) was dissolved in cold concentrated sulphuric acid (50 ml). The mixture was then added to N-hydroxy methylphthalimide (12.0 g) and the reaction mixture allowed to stand for 18 hrs at room temperature. The mixture was then poured into ice and the product extracted with dichloromethane, dried over magnesium sulphate and the solvent removed under reduced pressure. The crude product was triturated with diethyl ether and recrystallised from methanol to afford 5-[(1,3-dioxo-2,3-dihydro-1H-2-isoindolyl)methyl]-2-furoic acid (9.70 g) as a brown solid.

reactant | 2-Furoic acid | 10.0 g | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | N-hydroxy methylphthalimide | 12.0 g | OCN1C(C=2C(C1=O)=CC=CC2)=O | C9H7NO3
solvent | sulphuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 5-[(1,3-dioxo-2,3-dihydro-1H-2-isoindolyl)methyl]-2-furoic acid | 9.70 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(O1)C(=O)O | C14H9NO5
